US06180640B2
Using a Dean-Stark apparatus, 4-(3-piperidinyl)-propargyl-aniline (300 mg, 1.40 mmol) and Teoc-protected 5-bromoindole aldehyde (555 mg, 1.50 mmol) were heated at reflux for 8 h with a catalytic amount of p-tolunensulfonic acid monohydrate (15 mg, 0.078 mmol) in 15 mL benzene. The solvent was then removed in vacuo. The reaction mixture was then redissolved in 45 mL acetonitrile (HPLC grade, Aldrich #27071-7). Under nitrogen gas, 540 mg molecular sieves (Aldrich #23,366-8, 4A, activated), 540 mg ytterbium triflate (0.87 mmol) and 405 μL 2,3-dihydrofuran (5.4 mmol) were added sequentially and the resulting mixture was stirred at room temperature for an additional 14 h, at which point TLC (aluminum oxide, basic, J. T. Baker #4467-02, CH2Cl2:MeOH=50:1) indicated completion of the reaction. The reaction mixture was concentrated under vacuum. The mixture was redissolved in CH2Cl2 and 357 mg of 8-[3-(piperidinyl)-propargyl]-2,3,3a,4,5,9b-hexahydro-4-(3- cis- and trans-N-indolyl)-furo[3,2-c]quinoline were obtained in a 3:1 ratio after purification by flash column chromatography using aluminum oxide (Brockmann I, basic, Aldrich #19,944-3, CH2Cl2:MeOH=50:1, 45% yield).

reactant | 4-(3-piperidinyl)-propargyl-aniline | 1.40 mmol, 300 mg | N1CC(CCC1)C1=CC=C(NCC#C)C=C1 | C14H18N2
reactant | ytterbium triflate | 0.87 mmol, 540 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | 2,3-dihydrofuran | 5.4 mmol, 405 μL | O1CCC=C1 | C4H6O
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | furo[3,2-c]quinoline | O1C=CC=2C=NC=3C=CC=CC3C21 | C11H7NO
